US07371750B2
To the suspension of NaH (60% dispersion in mineral oil, 19.7 mg, 0.49 mmol) in DMF is added N-[4-Methyl-3-(7-methylsulfanyl-2,4-dioxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-3-trifluoromethyl-benzamide (218 mg, 0.45 mmol) at 0° C. When H2 evolution has ceased, iodomethane (84 μl, 1.35 mmol) is added and the reaction mixture is stirred for 3 hours at room temperature. The mixture is diluted with ethyl acetate, and washed with 5% aqueous Na2S2O3 solution to remove DMF. The organic layer is dried over MgSO4 and concentrated under reduced pressure. The crude product is crystallized from MeOH to give N-[4-Methyl-3-(1-methyl-7-methylsulfanyl-2,4-dioxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-3-trifluoromethyl-benzamide (184 mg, 82%) as a white solid.

reactant | NaH | 0.49 mmol, 19.7 mg | [H-].[Na+]
reactant | N-[4-Methyl-3-(7-methylsulfanyl-2,4-dioxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-3-trifluoromethyl-benzamide | 0.45 mmol, 218 mg | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)N1C(NC2=NC(=NC=C2C1=O)SC)=O | C22H16F3N5O3S
reactant | iodomethane | 1.35 mmol, 84 μl | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-Methyl-3-(1-methyl-7-methylsulfanyl-2,4-dioxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-3-trifluoromethyl-benzamide | 184 mg, 82% | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)N1C(N(C2=NC(=NC=C2C1=O)SC)C)=O | C23H18F3N5O3S
